* C:\users\leonardo\Desktop\FSAE\inverter-simulation\parallel-shit\testigbt.asc
R1 N001 N003 10k
V1 N002 0 PULSE(0 12 0 0 0 1m 0.5m)
V2 N001 0 200
XZ1 N003 0 0 irgb4060dpbf
R2 0 N002 100
.lib irgb4060dpbf.spi
.tran 0 0.002 0 1n
.backanno
.end
